US09227973B2
Step E: Ethyl (6S)-5′-fluoro-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate
A solution of ethyl (6S)-5′-fluoro-2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate (300 mg, 0.656 mmol) in MeOH (15 mL) was saturated with HCl (g) and aged for 30 min at ambient temperature. The resulting mixture was concentrated to dryness in vacuo. The residue was dissolved in MeOH (10 mL), ethylenediamine (0.044 mL, 0.656 mmol) was added, and the solution was adjusted to pH 10 by addition of 1 N sodium hydroxide. The resulting mixture was stirred at ambient temperature for 30 min, poured into water (20 mL) and extracted with CHCl3 (2×25 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated to dryness in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:MeOH-100:0 to 90:10, to give the title compound, which contained some of the corresponding methyl ester. MS: m/z=328.2 (M+1).

reactant | ethyl (6S)-5′-fluoro-2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | 0.656 mmol, 300 mg | FC=1C=C2C(=NC1)N(C([C@]21CC=2C(=NC=C(C2)C(=O)OCC)C1)=O)COCC[Si](C)(C)C | C23H28FN3O4Si
reactant | HCl | Cl | ClH
reactant | ethylenediamine | 0.656 mmol, 0.044 mL | C(CN)N | C2H8N2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | Ethyl (6S)-5′-fluoro-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | FC=1C=C2C(=NC1)NC([C@]21CC=2C(=NC=C(C2)C(=O)OCC)C1)=O | C17H14FN3O3
